US07560558B2
6-Fluoro-2-iodo-3-methoxypyridine (84 mg), tetrakistriphenylphosphine palladium (0) (38 mg), and copper(II) oxide (53 mg) were suspended in N,N-dimethylformamide (2 ml). 2-Tributylstannylpyridine (244 mg) was added to the suspension, and the mixture was stirred at 100° C. overnight. The reaction solution was cooled to room temperature. The reaction solution was then filtered, the solvent was removed from the filtrate by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with dichloromethane. The dichloromethane layer was washed with water and saturated brine and was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-methanol to give 6-fluoro-3-methoxy-[2,2′]bipyridine (12 mg, yield 18%).

reactant | 6-Fluoro-2-iodo-3-methoxypyridine | 84 mg | FC1=CC=C(C(=N1)I)OC | C6H5FINO
reactant | 2-Tributylstannylpyridine | 244 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | copper(II) oxide | 53 mg | [Cu]=O
product | 6-fluoro-3-methoxy-[2,2′]bipyridine | 12 mg, yield 18% | FC1=CC=C(C(=N1)C1=NC=CC=C1)OC | C11H9FN2O
